US08029919B2
3,7-Bis(2,2-diphenylvinyl)-10-phenylphenothiazine
6.63 g (58.1 mmol) of potassium tert-butoxide and then 8.50 g (25.7 mmol) of 10-phenylphenothiazine-3,7-dicarbaldehyde were added at room temperature with stirring to a solution of 15.61 g (51.3 mmol) of diethyl benzhydrylphosphonate (prepared analogously to Example 13 in U.S. Pat. No. 5,130,603) in 121 ml of dimethyl sulfoxide dried over molecular sieve. After stirring at room temperature for 5 hours, the reaction solution was diluted with 1500 ml of methanol and stirred for a further 15 min. The precipitate was filtered off, washed with methanol and dried at 80° C. under reduced pressure. 6.92 g (43% of theory) of yellowish solid having a melting point of 232-237° C. were obtained.

reactant | potassium tert-butoxide | 58.1 mmol, 6.63 g | CC(C)([O-])C.[K+]
reactant | 10-phenylphenothiazine-3,7-dicarbaldehyde | 25.7 mmol, 8.50 g | C1(=CC=CC=C1)N1C2=CC=C(C=C2SC=2C=C(C=CC12)C=O)C=O | C20H13NO2S
reactant | diethyl benzhydrylphosphonate | 51.3 mmol, 15.61 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)P(OCC)(OCC)=O | C17H21O3P
product | 3,7-Bis(2,2-diphenylvinyl)-10-phenylphenothiazine | C1(=CC=CC=C1)C(=CC=1C=CC=2N(C3=CC=C(C=C3SC2C1)C=C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C46H33NS
